US20010014683A1
(i) Methyl 4-{N-[2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-1-(R)-phenylethyl]-N-methylamino}benzoate
This was prepared from 2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-1-(R)-phenylethanol and 2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-2-(S)-phenylethanol and methyl 4-methylaminobenzoate in 49% yield according to a procedure similar to that described in Example 1 (i).

reactant | 2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-1-(R)-phenylethanol | COCO[C@@H]1CN(CC1)C[C@H](O)C1=CC=CC=C1 | C14H21NO3
reactant | 2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-2-(S)-phenylethanol | COCO[C@@H]1CN(CC1)[C@H](CO)C1=CC=CC=C1 | C14H21NO3
reactant | methyl 4-methylaminobenzoate | CNC1=CC=C(C(=O)OC)C=C1 | C9H11NO2
product | Methyl 4-{N-[2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-1-(R)-phenylethyl]-N-methylamino}benzoate | 49% yield | COCO[C@@H]1CN(CC1)C[C@@H](C1=CC=CC=C1)N(C)C1=CC=C(C(=O)OC)C=C1 | C23H30N2O4
